US05011825
(d) Z-Pro-Val-Lys(Boc)-Val-OtBu
0.38 ml of N-ethylmorpholine and 0.66 g of DCC are added, at 0° C., to a solution of 1.05 g of Z-Pro-Val-OH, 1.3 g of H-Lys(Boc)-Val-OtBu.HCl and 0.5 g of HOObt in 5 ml of dimethylformamide. The mixture is stirred at 0° C. for one hour and left to stand at room temperature overnight. The working-up is as in Example 8a. The residue is triturated with ether. The precipitate is filtered off with suction and dried.

reactant | N-ethylmorpholine | 0.38 ml | C(C)N1CCOCC1 | C6H13NO
reactant | DCC | 0.66 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | Z-Pro-Val-OH | 1.05 g | N1([C@H](C(=O)N[C@@H](C(C)C)C(=O)O)CCC1)C(=O)OCC1=CC=CC=C1 | C18H24N2O5
reactant | H-Lys(Boc)-Val-OtBu.HCl | 1.3 g | N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)N[C@@H](C(C)C)C(=O)OC(C)(C)C.Cl
reactant | HOObt | 0.5 g | C1=CC=C2C(=C1)C(=O)N(N=N2)O | C7H5N3O2
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | Z-Pro-Val-Lys(Boc)-Val-OtBu | N1([C@H](C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)N[C@@H](C(C)C)C(=O)OC(C)(C)C)CCC1)C(=O)OCC1=CC=CC=C1 | C38H61N5O9
